US04166822
(D) Preparation of 1-isopropylamino-4-bromo-8-hydroxy-anthraquinone
55 g of 1-isopropylamino-8-hydroxy-anthraquinone are dissolved in 110 ml of nitrobenzene at 100°, the solution is cooled to 15°-20° whilst stirring, 40 g of bromine are added over the course of approx. 10 minutes, the mixture is stirred overnight until cold and is diluted with 150 ml of methanol whilst cold, the whole is stirred for some time longer and the product is filtered off, washed with methanol and dried. Yield: 53 g.

reactant | 1-isopropylamino-8-hydroxy-anthraquinone | 55 g | C(C)(C)NC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)O)=O | C17H15NO3
reactant | bromine | 40 g | BrBr | Br2
solvent | nitrobenzene | 110 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | methanol | 150 ml | CO | CH4O
product | 1-isopropylamino-4-bromo-8-hydroxy-anthraquinone | C(C)(C)NC1=CC=C(C=2C(C3=CC=CC(=C3C(C12)=O)O)=O)Br | C17H14BrNO3
